US04496590
To a stirred suspension of 10 g of lithium aluminum hydride in 1 in liter dry ether under nitrogen was added over a period of one hour a solution of 35 g of 2-(4-benzyloxyphenylamino)-5-methoxybenzoic acid in 300 ml of tetrahydrofuran. The mixture was heated at reflux for three hours, then cooled, and water (20 ml) was slowly added. The solid material was removed by filtration and the filtrate concentrated in vacuo. The residue was crystallized and recrystallized from a benzene-cyclohexane-hexane mixture to yield 26 g of 2-(4-benzyloxyphenylamino)-5-methoxybenzenemethanol, light tan crystals, m.p. 100°-101° C.

reactant | lithium aluminum hydride | 10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | CCOCC | C4H10O
reactant | 2-(4-benzyloxyphenylamino)-5-methoxybenzoic acid | 35 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=C(C(=O)O)C=C(C=C1)OC | C21H19NO4
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-(4-benzyloxyphenylamino)-5-methoxybenzenemethanol | 26 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=C(C=C(C=C1)OC)CO | C21H21NO3
